US05969134
2-Hydroxy-3-methoxy-3,3-diphenylpropionic acid
91.11 g (0.5 mol) of benzophenone and 45.92 g (0.85 mol) of sodium methoxide were suspended in 150 ml of methyl tert-butyl ether (MTB) at room temperature. After cooling to -10° C., 92.24 g (0.85 mol) of methyl chloroacetate were added in such a way that the internal temperature rose to 40° C. while continuing to cool in a bath at -10° C. The mixture was then stirred without cooling at the autogenous temperature for one hour. After addition of 250 ml of water and brief stirring, the aqueous phase was separated off. The MTB phase was washed with 250 ml of dilute sodium chloride solution. After the solvent had been changed to methanol (250 ml), a solution of 1 g of p-toluenesulfonic acid in 10 ml of methanol was added at room temperature. The mixture was stirred at autogenous temperature for one hour and then heated to reflux. While distilling out the methanol, 400 g of a 10% strength sodium hydroxide solution was added dropwise, and finally 60 ml of water were added. The methanol was distilled out until the bottom temperature reached 97° C. After cooling to 55° C., 190 ml of MTB were added and the mixture was acidified to pH 2 with about 77 ml of concentrated HCl. After cooling to room temperature, the aqueous phase was separated off and the organic phase was concentrated by distilling out 60 ml of MtB. The product was crystallized by adding 500 ml of heptane and slowly cooling to room temperature. The coarsely crystalline solid was filtered off with suction, washed with heptane and dried to constant weight in a vacuum oven at 40° C.

reactant | benzophenone | 0.5 mol, 91.11 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | sodium methoxide | 0.85 mol, 45.92 g | C[O-].[Na+]
reactant | methyl chloroacetate | 0.85 mol, 92.24 g | ClCC(=O)OC | C3H5ClO2
reactant | water | 250 ml | O | H2O
reactant | methyl tert-butyl ether | 150 ml | C(C)(C)(C)OC | C5H12O
product | 2-Hydroxy-3-methoxy-3,3-diphenylpropionic acid | OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H16O4
